US06906067B2
Cyanuric chloride (0.74 g, 4.02 mL) was added to an acetone solution (15 mL) of 3-amino-4-methyl-N-phenethyl-benzamide (1.02 g, 4.02 mmol) at 0° C. The mixture was stirred for 1 h at 0° C. Ice was added to the mixture and stirred for 15 min. The solvent was removed to afford 3-(4,6-dichloro-[1,3,5]triazin-2-ylamino)-4-methyl N-phenethyl-benzamide (1.52 g, 94%) as white solid MS (m/z) calced for C19H17Cl2N5O (MH+), 402; found, 402.

reactant | Cyanuric chloride | 4.02 mL, 0.74 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-amino-4-methyl-N-phenethyl-benzamide | 4.02 mmol, 1.02 g | NC=1C=C(C(=O)NCCC2=CC=CC=C2)C=CC1C | C16H18N2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 3-(4,6-dichloro-[1,3,5]triazin-2-ylamino)-4-methyl N-phenethyl-benzamide | 1.52 g, 94% | ClC1=NC(=NC(=N1)Cl)NC=1C=C(C(=O)NCCC2=CC=CC=C2)C=CC1C | C19H17Cl2N5O
